US07888352B2
A mixture of 2-chloro-4-morpholin-4-yl-6-piperazin-1-ylmethyl-thieno[3,2-d]pyrimidine following General Procedure B-3 (500 mg), cyclopropanesulfonyl chloride (0.24 mL) and triethylamine (0.57 mL) in dichloromethane (5 mL) was stirred at room temperature. After stirring for 24 hours, standard work-up yielded 2-chloro-6-(4-cyclopropanesulfonyl-piperazin-1-ylmethyl)-4-morpholin-4-yl-thieno[3,2-d]pyrimidine.

reactant | 2-chloro-4-morpholin-4-yl-6-piperazin-1-ylmethyl-thieno[3,2-d]pyrimidine | ClC=1N=C(C2=C(N1)C=C(S2)CN2CCNCC2)N2CCOCC2 | C15H20ClN5OS
reactant | cyclopropanesulfonyl chloride | 0.24 mL | C1(CC1)S(=O)(=O)Cl | C3H5ClO2S
reactant | triethylamine | 0.57 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 2-chloro-6-(4-cyclopropanesulfonyl-piperazin-1-ylmethyl)-4-morpholin-4-yl-thieno[3,2-d]pyrimidine | ClC=1N=C(C2=C(N1)C=C(S2)CN2CCN(CC2)S(=O)(=O)C2CC2)N2CCOCC2 | C18H24ClN5O3S2
